US07884210B2
{2-[3-(3-Methyl-butyl)-3-(4-propoxy-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid was prepared as described for the synthesis of [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid using isovaleraldehyde, trans-4-propoxy-cyclohexylamine and (2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester.

reactant | [2-(3-cyclohexyl-3-phenethyl-ureido)-thiazol-5-ylsulfanyl]-acetic acid | C1(CCCCC1)N(C(NC=1SC(=CN1)SCC(=O)O)=O)CCC1=CC=CC=C1 | C20H25N3O3S2
reactant | isovaleraldehyde | C(CC(C)C)=O | C5H10O
reactant | trans-4-propoxy-cyclohexylamine | C(CC)O[C@@H]1CC[C@H](CC1)N | C9H19NO
reactant | (2-amino-thiazol-5-ylsulfanyl)-acetic acid ethyl ester | C(C)OC(CSC1=CN=C(S1)N)=O | C7H10N2O2S2
product | {2-[3-(3-Methyl-butyl)-3-(4-propoxy-cyclohexyl)-ureido]-thiazol-5-ylsulfanyl}-acetic acid | CC(CCN(C(NC=1SC(=CN1)SCC(=O)O)=O)C1CCC(CC1)OCCC)C | C20H33N3O4S2
